US07691882B2
3-(3-(4-(6-Methoxy-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine
Tetrahydrofuran (3 mL) and a 5N sodium hydroxide aqueous solution (22.4 μL, 0.11 mmol) were added to 4-(5-(2-amino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol (30 mg, 0.11 mmol) described in Manufacturing Example 5-1-1, which was dissolved by irradiating ultrasonic wave for 1 minute. The reaction solution was then concentrated under a reduced pressure, which gave a white solid. To a suspension of this solid in N,N-dimethylformamide (1 mL) was added an N,N-dimethylformamide (1 mL) solution of the 2-chloromethyl-6-methoxy-pyridine (21.2 mg, 0.13 mmol) described in Manufacturing Example 99-1-2, which was stirred for 12 hours at 60° C. This reaction mixture was cooled to room temperature and partitioned into water and ethyl acetate. The organic layer was separated, washed with water and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and this residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (36.7 mg, 84%).

reactant | Tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.11 mmol, 5N, 22.4 μL | [OH-].[Na+]
reactant | 4-(5-(2-amino-pyridin-3-yl)-isoxazol-3-ylmethyl)-phenol | 0.11 mmol, 30 mg | NC1=NC=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O | C15H13N3O2
reactant | 2-chloromethyl-6-methoxy-pyridine | 0.13 mmol, 21.2 mg | ClCC1=NC(=CC=C1)OC | C7H8ClNO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-(3-(4-(6-Methoxy-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2-ylamine | 36.7 mg, 84% | COC1=CC=CC(=N1)COC1=CC=C(CC2=NOC(=C2)C=2C(=NC=CC2)N)C=C1 | C22H20N4O3
